US08247401B2
Step B: Methyl 3-(5-methylpyridin-2-yl)-5-{1-[(trimethylsily)methyl]-1H-1,2,3-triazol-5-yl}benzoate
To a degassed solution of methyl 3-ethynyl-5-(5-methylpyridin-2-yl)benzoate (124 mg, 0.493 mmol) in benzene (12 mL) were added trimethylsilylmethylazide (96 mg, 0.740 mmol) and pentamethylcyclopentadienylbis(triphenylphosphine)ruthenium(II) chloride (59 mg, 0.074 mmol) and the mixture heated to 80° C. in a sealed tube. After 16 h, the title compound was showed as the major isomer (10:1 isomeric ratio) in the reaction. The reaction was concentrated and purified by reverse-phase HPLC gave the title compound (120 mg). MS 381.1 (M+1).

reactant | methyl 3-ethynyl-5-(5-methylpyridin-2-yl)benzoate | 0.493 mmol, 124 mg | C(#C)C=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)C | C16H13NO2
reactant | trimethylsilylmethylazide | 0.740 mmol, 96 mg | C[Si](C)(C)CN=[N+]=[N-] | C4H11N3Si
solvent | benzene | 12 mL | C1=CC=CC=C1 | C6H6
catalyst | pentamethylcyclopentadienylbis(triphenylphosphine)ruthenium(II) chloride | 0.074 mmol, 59 mg | C[C]1[C]([C]([C]([C]1C)C)C)C.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru]
product | Methyl 3-(5-methylpyridin-2-yl)-5-{1-[(trimethylsily)methyl]-1H-1,2,3-triazol-5-yl}benzoate | CC=1C=CC(=NC1)C=1C=C(C(=O)OC)C=C(C1)C1=CN=NN1C[Si](C)(C)C | C20H24N4O2Si
